2147-01-28 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   In the am the patient became hypotensive to the 70's and hypoxia to the
   80's.  He was given IVF and started on levophed with improvement of his
   pressures initally.  His FiO2 was increased to 60% with improvement of
   his hypoxia.  The levophed was uptitrated, however on the max dose he
   again dropped his pressures to the 70's and was started initally on
   norepinephrine, but then switched to dobutamine when his mixed venous
   sat returned at 44% suggesting a cardiac component to his hypotension.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2147-1-28**] 05:30 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Tele:
   Sinus rhythm in the 50
s to 80
   Flowsheet Data as of  [**2147-1-28**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 76 (59 - 76) bpm
   BP: 107/62(71) {92/49(60) - 133/83(94)} mmHg
   RR: 29 (19 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           969 mL
   PO:
           TF:
   IVF:
   492 mL
   Blood products:
   397 mL
   Total out:
                                                                      0 mL
                                                                    750 mL
   Urine:
   750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    219 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 26 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 93%
   ABG: 7.28/25/61/13/-12
   Ve: 19 L/min
   PaO2 / FiO2: 61
   Physical Examination
   General Appearance: Thin elderly male with increased work of breathing
   on the ventilator
   HEENT: PERRL, Normocephalic, Poor dentition, Endotracheal tube, OG tube
   Cardiovascular: RRR, no MRG
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), hematoma over L radial artery at wrist
   Respiratory / Chest: Coarse breath sounds throughout anteriorly
   Abdominal: +BS, soft ND
   Extremities: No edema
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Unresponsive to voice, withdraws to pain.
   Labs / Radiology
   21 K/uL
   8.9 g/dL
   146 mg/dL
   4.6 mg/dL
   13 mEq/L
   5.3 mEq/L
   122 mg/dL
   108 mEq/L
   145 mEq/L
   26.4 %
   1.2 K/uL
        [image002.jpg]
                             [**2147-1-28**]  01:53 AM
                             [**2147-1-28**]  04:15 AM
                             [**2147-1-28**]  04:24 AM
   WBC
   1.4
   1.2
   Hct
   25.7
   26.4
   Plt
   25
   21
   Cr
   4.7
   4.6
   TropT
   1.14
   1.20
   TCO2
   12
   Glucose
   235
   146
   Other labs: PT / PTT / INR:40.7/65.8/4.4, CK / CKMB /
   Troponin-T:9551/58/1.20, ALT / AST:1772/2154, Alk Phos / T
   Bili:148/5.0, Amylase / Lipase:/487, D-dimer:8754 ng/mL, Fibrinogen:<35
   mg/dL, Lactic Acid:7.5 mmol/L, Albumin:3.6 g/dL, LDH:3380 IU/L,
   Ca++:9.5 mg/dL, Mg++:3.3 mg/dL, PO4:9.1 mg/dL
   Lactate 12.5
 9.8
 7.5
   Fibrinogen 94
 68
 < 35
   Hapto < 20
   FDP > 1280
   TSH 1.2
   Cortisol 158.6
   [1][**2147-1-28**]
   BLOOD CULTURE
   Pending
   [2][**2147-1-28**]
   SPUTUM
   Final  - contaminated
   [3][**2147-1-28**]
   URINE
   Pending
   69M with DM2, CAD, CHF, aplastic anemia, CKD, now with s/p respiratory
   and cardiac arrests with hyperkalemia, acute on chronic renal failure,
   and DIC. The exact nature of these events is unclear, but he has had
   worsening renal function over the past week, leading to electrolyte
   disturbances and possibly an arrhythmogenic cardiac arrest with
   spontaneous return of circulation prior to the arrival of EMS now with
   persistent hypotension requiring multiple pressors.
   # Shock: It is uncelar whether he is in septic shock or cardiogenic
   shock.  His SBPs continue to drop with unclear precipitant.  He is warm
   and perfusing so he may have a componenet of septic shock, however his
   mixed venous oyxgen sat was only 44, suggestive of cardiogenic shock.
   He is currently perfusing, as evidenced by downtrending lactate.
   - serial lactate
   - volume resuscitation with IVF
   - given unclear etiology of current state will cover with broad
   spectrum vanc/cefepime
   - pressors as needed for pressure support including levophed,
   dobutamine, and vasopressin
   - Goal MAP >60.
   - Will transfuse 2 units PRBC to volume expand and have a Hct goal of >
   30 due to concern for a possible cardiac event.
   - Monitor pH on ABG for a goal pH of > 7.2
   # Respiratory Failure: unclear precipitant. extensive cardiac history
   suggests cardiac arrest as well as his positive cardiac enzymes, but pt
   had perfusing blood pressure per EMS in the field. PE is less likely at
   a gas shortly after intubation showed good oxygenation.
   - vent support, can try to wean O2 as tolerated with a goal oxygenation
   of 90% of higher.
   - fentanyl, versed for comfort while on mechanical ventilation
   # unresponsiveness: received minimal sedation in ED, but not responding
   to sternal rub on arrival in ICU. coagulopathy creates high risk for
   bleeding.  Could also be due to seizure activity if a bleed is
   present.  Also could have hypoxic encephalopathy as it was unclear how
   well he was oxygenating when he was found.  He had a Utox which was
   negative, but substances should be consider as a cuase of mental status
   change.
   - once stabilized obtain a head CT to rule out bleed.
   # DIC: TTP is in the differential, esp with ARF, MS change, low plts,
   anemia, but would not explain low fibrinogen
   elevated PT, PTT, low platelets, fibrinogen low at 94 on arrival and
   now down to 68 down to <35; FDP, D-dimer elevated at 8754 and FDP of >
   1280 all fit with DIC.
   - cryo to goal fibrinogen > 100
   - will need correction of coagulopathy (plts, FFP) prior to re-siting
   central line
   # Hemolytic anemia superimposed on Aplastic anemia:
   - supportive transfusion to goal Hct 30, given concern for myocardial
   ischemia
   - heme c/s given his complicated picture and history of aplastic
   anemia.
   # CAD:
   pt with extensive CAD history, including prior revascularizations and
   recent NSTEMI, with unwitnessed, out of hospital arrest, although he
   had a perfusing BP in the field. EKG with signs of hyperkalemia on
   arrival but pseudonormalization in ant leads after resolution of hyperK
   suggests ischemic insult. Cardiac troponin positive, rules in for
   NSTEMI, which may have been primary event or secondary to brief
   circulatory collapse followed by return of circulation, as would be the
   case with VT/VF that spontaneously terminated.
   - trend enzymes, daily EKG
   - anticoagulants, antiplatelets contraindicated [**2-27**] DIC
   - statin contraindicated [**2-27**] shock liver
   # CHF:
   known EF 15-20%
   - repeat echo today to eval for new WMA
   - No acei or B-blocker given hypotension.
   # Acute on chronic renal failure: Cr had been trending up at last
   clinic vists, now doubled in the 4
s.  Differential includes ATN from
   hypotension, TTP, other intrarenal causes.  Less likely prerenal or
   postrenal given his other issues.  Osm gap was elevated at 13.  FENA of
   0.4 suggests prerenal, but given the extent of his hypotension and rise
   in his Cr, more likely to be ATN.
   - check cyclosporin level (pt may have been taking CSA even though
   directed not to)
   - volume resuscitation with isotonic bicarb, which will also help
   correct metabolic acidosis
   - re-dose kayexalate, as K still up
   - serial electrolytes
   - Add on methenol given elevated osm gap.
   - renal consult
   - renally dose all meds, avoid nephrotoxins
   # shock liver: The patient
s LFTs continue to be elevated, likely due
   to ongoing hypotension.  The elevated T bili is likely in part from
   hemolytic anemia, but massive elevations in all liver enzymes c/w shock
   liver.
   - continue to trend.
   - Elevated CKs and LFTs could also be concerning for rhabdo in the
   setting of ARF.  IVF with bicarb for alkalization of her urine given a
   possibility of rhabdo.
   # DM2:
   - monitor sugars, may need insulin gtt
   # Access: femoral line; will need to change to SC/IJ when able. Place
   aline if possible; pt has PVD and has been difficult to drawn abgs.
   ICU Care
   Nutrition: NPO for now while on pressors.
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2147-1-28**] 01:41 AM
   20 Gauge - [**2147-1-28**] 01:44 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Full code
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_22%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_23%22,640,400,50,50,1);

2147-01-28 09:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2147-1-28**] 01:30 AM
 MULTI LUMEN - START [**2147-1-28**] 01:41 AM
 EKG - At [**2147-1-28**] 03:07 AM
 BLOOD CULTURED - At [**2147-1-28**] 04:08 AM
 SPUTUM CULTURE - At [**2147-1-28**] 04:08 AM
 URINE CULTURE - At [**2147-1-28**] 04:08 AM
   Remains intubated, mechanically ventilated.
   Continues to require vasopressors to maintain MAP.
   Neurologically, no motor activity, flaccid, unresponsive.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive, Mechanically
   ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2147-1-28**] 05:30 AM
   Vancomycin - [**2147-1-28**] 08:00 AM
   Infusions:
   Norepinephrine - 0.42 mcg/Kg/min
   Dobutamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss,
   Hypothermia
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-1-28**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 78 (59 - 84) bpm
   BP: 69/46(52) {60/13(22) - 133/83(94)} mmHg
   RR: 30 (16 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           1,432 mL
   PO:
           TF:
   IVF:
   955 mL
   Blood products:
   397 mL
   Total out:
                                                                      0 mL
                                                                    785 mL
   Urine:
   785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    647 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: Hemodynamic Instability
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 96%
   ABG: 7.28/25/61/13/-12
   Ve: 19.7 L/min
   PaO2 / FiO2: 76
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   No(t) Distended, No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Decreased, Flaccid
   Labs / Radiology
   8.9 g/dL
   21 K/uL
   146 mg/dL
   4.6 mg/dL
   13 mEq/L
   5.3 mEq/L
   122 mg/dL
   108 mEq/L
   145 mEq/L
   26.4 %
   1.2 K/uL
        [image002.jpg]
                             [**2147-1-28**]  01:53 AM
                             [**2147-1-28**]  04:15 AM
                             [**2147-1-28**]  04:24 AM
   WBC
   1.4
   1.2
   Hct
   25.7
   26.4
   Plt
   25
   21
   Cr
   4.7
   4.6
   TropT
   1.14
   1.20
   TCO2
   12
   Glucose
   235
   146
   Other labs: PT / PTT / INR:40.7/65.8/4.4, CK / CKMB /
   Troponin-T:9551/58/1.20, ALT / AST:1772/2154, Alk Phos / T
   Bili:148/5.0, Amylase / Lipase:/487, D-dimer:8754 ng/mL, Fibrinogen:<35
   mg/dL, Lactic Acid:7.5 mmol/L, Albumin:3.6 g/dL, LDH:3380 IU/L,
   Ca++:9.5 mg/dL, Mg++:3.3 mg/dL, PO4:9.1 mg/dL
   Assessment and Plan
   Shock, severe.  Concern for sepsis on background of cardiomyopathy.
   RESPIRATORY FAILURE -- multifactorial.  Significant resp.
   decompensation in the field, indicating possible pneumonia, CHF, COPD
   exacerbation, or respiratory response to acidemia (lactic acidosis,
   renal failure, sepsis).  Plan continue mechanical ventilation, monitor
   ABG --> aim for SaO2 > 90%, pO2 > 60 mmHg, pH> 7.30.  Monitor for
   pneumonia (LLL).
   HYPOTENSION -- multifactorial; principal concerns include severe
   sepsis, hypovolemia, and component of cardiogenic shock (baseline
   cardiomyopathy).  ELevated cardiac enzymes suggest component of
   ischedmia, but may be secondary.  Plan continue volume resussutation,
   vasopressors (including trial of vasopressin) including Dobutamine.
   Transfuse with colloid, transfuse with PRBC.  Maintain MAP >60 mmHg.
   SEPSIS -- hypothermia, low neutrophil count.
   NEUTROPENIA -- approaching absolute neutrophilia --> empirical
   antimicrobials (Vanco, Cefopime).
   THROMBOCYTOPENIA
 worsening.  In setting of schistocytes, concern for
   TTP/HUS.  Hematology consult.
   ANEMIA
 aplastic anemia as background.  Worsening, suggesting of
   hemolytic anemia. Transfuse.  Hematololgy consult.
   HYPOTHERMIA -- concern for severe sepsis, possible component of
   cardiogenic shock
   RENAL FAILURE -- acute on chronic.  Contributing to acidosis.
   Attributed to hypovolemia and shock --> now with evidence for uremia.
   Plan volume resussitation
   CPK elevation -- Concern for rhabdomyalysis.  continue HCO3 infusion.
   Monitor urine output.
   ELEVATED LFT's -- probable significant component of shock liver, but
   may have predated hypotension.
   NEUROLOGICAL STATUS -- unresponsive to tactile stimulus, flaccid motor
   exam.  Concern for possible hypoxemic encephalopathy (or subsequent
   hypotensive insult).  Serum and urine toxin negative.  No concerns for
   meningitis or encephalitis at this time.  Head CT when clinically
   stable to assess for intracranial hemorrhage.  TTP may explain mental
   status change.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-1-28**] 01:41 AM
   20 Gauge - [**2147-1-28**] 01:44 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2147-01-29 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - In the am the patient became hypotensive to the 70's and hypoxic to
   the 80's.  He was given IVF and started on levophed which was max'ed
   out and then he was started on dobutamine with good effect.  Also
   responded well to IVF.  Was able to come off dobutamine in the pm.
   Weaning down levophed overnight.
   - BP's have been stable in 100's overnight, has woken up a little,
   opened his eyes when his family said his name
   - Received 1u pRBC overnight for hct of 28 (goal >30), repeat hct was
   29.3
   - Tranfusion medicine saw, does not think this is TTP, no
   plasmaphereiss for now
   - d/c'ed steroids
   - Renal saw, plan for CVVH tomorrow if not improved
   - RUQ: Unremarkable liver, no evidence of abscess.  Gallbladder with
   cholithiasis, no cholycystis.  Normal vasculature.
   - Radial a-line attempted mulitple times without success [**2-27**] hematoma
   formation so anesthesia placed a L brachial A-line
   - 12am gas: 7.5/26/179, over-breathing on vent, changed to 500x14 with
   FiO2 of 50% (from 600x16 at 60%)
   - 1am gas: 7.44/30/139
   - potassium persistently low (dropping 3.8-->3.2-->3.1) in spite of
   repletion, received total of 80 mEq in 24 hours ?? [**2-27**] to correction of
   acidosis
   - changed to NS for IVF when pH was 7.5, changed back to D5 with bicarb
   after last gas
   - fingerstick overnight 47, got 1 amp D50 with good response, fs stable
   since then
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-1-28**] 08:00 AM
   Metronidazole - [**2147-1-29**] 03:59 AM
   Cefipime - [**2147-1-29**] 05:05 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-1-28**] 10:20 AM
   Dextrose 50% - [**2147-1-28**] 09:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-29**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (98.9
   HR: 74 (70 - 91) bpm
   BP: 100/56(69) {92/50(64) - 120/66(82)} mmHg
   RR: 29 (24 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 44 - 47
   Total In:
                                                                  7,855 mL
                                                                  2,282 mL
   PO:
   TF:
   IVF:
                                                                  5,742 mL
                                                                  2,282 mL
   Blood products:
                                                                  1,778 mL
   Total out:
                                                                  2,084 mL
                                                                  1,348 mL
   Urine:
                                                                    834 mL
                                                                     48 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  5,771 mL
                                                                    934 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 23 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/30/191/19/-4
   Ve: 14.6 L/min
   PaO2 / FiO2: 478
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Decreased
   Labs / Radiology
   13 K/uL
   10.9 g/dL
   88 mg/dL
   4.9 mg/dL
   19 mEq/L
   3.7 mEq/L
   121 mg/dL
   111 mEq/L
   150 mEq/L
   30.1 %
   0.4 K/uL
        [image002.jpg]
                             [**2147-1-28**]  04:15 AM
                             [**2147-1-28**]  04:24 AM
                             [**2147-1-28**]  11:35 AM
                             [**2147-1-28**]  05:05 PM
                             [**2147-1-29**]  12:05 AM
                             [**2147-1-29**]  12:08 AM
                             [**2147-1-29**]  01:39 AM
                             [**2147-1-29**]  04:54 AM
                             [**2147-1-29**]  05:08 AM
                             [**2147-1-29**]  06:05 AM
   WBC
   0.9
   0.3
   0.4
   Hct
   26.4
   21.9
   28.1
   29.3
   30.1
   Plt
   21
   17
   13
   Cr
   4.6
   4.7
   5.0
   5.0
   4.9
   TropT
   1.20
   1.23
   1.72
   TCO2
   12
   21
   21
   19
   19
   Glucose
   146
   265
   146
   95
   88
   Other labs: PT / PTT / INR:27.9/50.7/2.8, CK / CKMB /
   Troponin-T:5674/30/1.72, ALT / AST:2269/3112, Alk Phos / T
   Bili:109/7.9, Amylase / Lipase:/487, Differential-Neuts:28.0 %,
   Band:4.0 %, Lymph:64.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:8131 ng/mL,
   Fibrinogen:121 mg/dL, Lactic Acid:5.8 mmol/L, Albumin:3.6 g/dL,
   LDH:4086 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 SHOCK, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 CARDIOMYOPATHY, OTHER
 LIVER FUNCTION ABNORMALITIES
 HYPOTHERMIA
   69M with DM2, CAD, CHF, aplastic anemia, CKD, now with s/p respiratory
   and cardiac arrests with hyperkalemia, acute on chronic renal failure,
   and DIC. The exact nature of these events is unclear, but he has had
   worsening renal function over the past week, leading to electrolyte
   disturbances and possibly an arrhythmogenic cardiac arrest with
   spontaneous return of circulation prior to the arrival of EMS now
   admitted with persistent hypotension requiring multiple pressors.
   # Shock: It is uncelar whether he is in septic shock or cardiogenic
   shock.  Given improvement in status with aggressive fliuds and
   antibiotics, would favor distributive shock with an infectious
   etiology.  His SBPs are holding in the 100
s-110
s.  Still requiring
   levophed for bp support.  BP
s also responded well to IVF though UOP
   remains low and renal function worsening.  Received 2 units yesterday
   morning and an additional unit overnight, hct at 29 this morning,
   stable.  Brachial A-line placed overnight by anesthesia.
   - volume resuscitation with IVF
 use D5 to correct hypernatremia but
   will also need NS for volume repletion, can control Na with free water
   boluses once start tube feeds
   - given unclear etiology of current state and neutropenia continue
   broad spectrum vanc/cefepime
   - pressors as needed for pressure support
 on levophed
   - Goal MAP >60.
   - tranfuse for goal hct>30
   - Monitor pH on ABG for a goal pH of > 7.2
   - If stable, would get CT torso, with po contrast
   # Metabolic Acidosis:  Likely [**2-27**] overwhelming sepsis, renal failure.
   pH normalize but still with low bicarb [**2-27**] ARF
   - needs bicarb
   - serial ABG
s and lytes to monitor
   - abx as above
   - renal following , appreciate recs
   # Respiratory Failure/Acidosis: Unclear precipitant. extensive cardiac
   history suggests cardiac arrest as well as his positive cardiac
   enzymes, but pt had perfusing blood pressure per EMS in the field. PE
   is less likely at a gas shortly after intubation showed good
   oxygenation.   PNA less likely as CXR does not suggest it.  Have been
   able to wean down PEEP and decrease FiO2 ro 40%.  Last gas:
   7.4/30/191/19 showing a mixed  respiratory and metabolic acidosis.
   - vent support, can try to wean O2 as tolerated with a goal oxygenation
   of 90% of higher.
   - has been off sedation
   # Unresponsiveness: Improving. Received minimal sedation in ED, but not
   responding to sternal rub on arrival in ICU. coagulopathy creates high
   risk for bleeding.  Could also be due to seizure activity if a bleed is
   present.  Also could have hypoxic encephalopathy as it was unclear how
   well he was oxygenating when he was found.  He had a Utox which was
   negative, but substances should be consider as a cause of mental status
   change.   He is now moving all 4 extremities, withdraws to pain and
   opened his eyes in reponse to his family
s voices.
   - needs a head CT today to rule out bleed
   - has been off sedation as above
   # DIC: Heme consulted
 do not think there is TTP though it remains in
   the differential, given his with ARF, MS change, low plts, anemia, but
   would not explain low fibrinogen elevated PT, PTT, low platelets,
   fibrinogen low at 94 on arrival and was down to 68 down to <35, now
   improved above 100; FDP, D-dimer were elevated at 8754 and FDP of >
   1280 which all fit with DIC
 likely from an infectious cause.   No
   plasmapheresis for now per heme.  INR this [**Last Name (un) 3698**] improved to 2.8
   - will need correction of coagulopathy (plts, FFP) prior to re-siting
   central line
   - heme following, appreciate recs
   # Hemolytic anemia superimposed on Aplastic anemia:
   - supportive transfusion to goal Hct 30, given concern for myocardial
   ischemia
   - heme following, appreciate recs.
   # CAD: Pt with extensive CAD history, including prior
   revascularizations and recent NSTEMI, with unwitnessed, out of hospital
   arrest, although he had a perfusing BP in the field. EKG had signs of
   hyperkalemia on arrival but pseudonormalization in ant leads after
   resolution of hyperK suggests ischemic insult. Cardiac troponin
   positive, rules in for NSTEMI, which may have been primary event or
   secondary to brief circulatory collapse followed by return of
   circulation, as would be the case with VT/VF that spontaneously
   terminated.  Enzymes trending up likely multifactorial from end organ
   ischemia and renal failure.
   - trend enzymes, daily EKG
   - anticoagulants, antiplatelets contraindicated [**2-27**] DIC
   - statin contraindicated [**2-27**] shock liver
   # CHF: Known EF 15-20%
   - echo ordered  to eval for new WMA
   - No ACE-I or B-blocker given hypotension.
   # Acute on chronic renal failure: Cr had been trending up at last
   clinic vists, now doubled in the 4
s on admission now stable at 4.9
   this morning  Differential includes ATN from hypotension, TTP, other
   intrarenal causes.  Less likely prerenal or postrenal given his other
   issues.  Osm gap was elevated at 13.  FENA of 0.4 suggests prerenal,
   but given the extent of his hypotension and rise in his Cr, more likely
   to be ATN.
   - pending cyclosporin level (pt may have been taking CSA even though
   directed not to)
   - continue volume resuscitation as above with D5 and NS
   - serial electrolytes
   - renal following, appreciate recs, may get CVVH today after line
   placement though Cr is plateaued at 4.9 this morning
   - renally dose all meds, avoid nephrotoxins
   - ionized Ca was low, replete check with pm lytes
   # shock liver: The patient
s LFTs continue to be elevated, likely due
   to hypoperfusion in setting of prolonged hypotension.  The elevated T
   bili is likely in part from hemolytic anemia, but massive elevations in
   all liver enzymes c/w shock liver.
   - continue to trend.
   - Elevated CKs and LFTs could also be concerning for rhabdo in the
   setting of ARF.  IVF with bicarb for alkalization of her urine given a
   possibility of rhabdo.
   # Hypernatremia: 150 this morning, likely [**2-27**] to aggressive fluids with
   sodium bicarb
   - will give D5 for free water replacement though will still need bicarb
   given likely rhabo
   - pm lytes, trend
   # DM2:  Sugar 47 overnight, got 1 amp D50 with good result, has been
   off insulin drip since yesterday
   - monitor sugars, may need insulin gtt
   # Access: femoral line; will need to change to SC/IJ when able. A line
   placed.  Will need CVVH line
 renal to place.
   # FEN: Nutrition c/s for tubefeeds, replete lytes prn, fluids as above
   ICU Care
   Nutrition: c/s as above
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2147-1-28**] 01:41 AM
   Arterial Line - [**2147-1-28**] 10:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2147-01-29 09:53:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2147-1-28**] 09:10 PM
 ARTERIAL LINE - START [**2147-1-28**] 10:11 PM
   Remnains intubated, mechanically ventilated.
   Remains on vasopressor, but slowly weaning down.
   Somewhat more responsive neurologically.
   Urine output remains poor.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-1-28**] 08:00 AM
   Metronidazole - [**2147-1-29**] 03:59 AM
   Cefipime - [**2147-1-29**] 05:05 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2147-1-28**] 09:13 PM
   Pantoprazole (Protonix) - [**2147-1-29**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Ett
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-1-29**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 81 (70 - 88) bpm
   BP: 89/54(65) {81/47(57) - 120/66(82)} mmHg
   RR: 27 (24 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Mixed Venous O2% Sat: 44 - 47
   Total In:
                                                                  7,855 mL
                                                                  2,517 mL
   PO:
   TF:
   IVF:
                                                                  5,742 mL
                                                                  2,517 mL
   Blood products:
                                                                  1,778 mL
   Total out:
                                                                  2,084 mL
                                                                  1,359 mL
   Urine:
                                                                    834 mL
                                                                     59 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  5,771 mL
                                                                  1,158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 23 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/29/105/19/-5
   Ve: 14.6 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   13 K/uL
   88 mg/dL
   4.9 mg/dL
   19 mEq/L
   3.7 mEq/L
   120 mg/dL
   111 mEq/L
   150 mEq/L
   30.1 %
   0.4 K/uL
        [image002.jpg]
                             [**2147-1-28**]  04:24 AM
                             [**2147-1-28**]  11:35 AM
                             [**2147-1-28**]  05:05 PM
                             [**2147-1-29**]  12:05 AM
                             [**2147-1-29**]  12:08 AM
                             [**2147-1-29**]  01:39 AM
                             [**2147-1-29**]  04:54 AM
                             [**2147-1-29**]  05:08 AM
                             [**2147-1-29**]  06:05 AM
                             [**2147-1-29**]  07:36 AM
   WBC
   0.3
   0.4
   Hct
   21.9
   28.1
   29.3
   30.1
   Plt
   17
   13
   Cr
   4.7
   5.0
   5.0
   4.9
   TropT
   1.23
   1.72
   TCO2
   12
   21
   21
   19
   19
   18
   Glucose
   265
   146
   95
   88
   Other labs: PT / PTT / INR:27.9/50.7/2.8, CK / CKMB /
   Troponin-T:5674/30/1.72, ALT / AST:2269/3112, Alk Phos / T
   Bili:109/7.9, Amylase / Lipase:/487, Differential-Neuts:28.0 %,
   Band:4.0 %, Lymph:64.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:8131 ng/mL,
   Fibrinogen:121 mg/dL, Lactic Acid:5.8 mmol/L, Albumin:3.6 g/dL,
   LDH:3370 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Shock, severe.  Concern for sepsis on background of cardiomyopathy.
   RESPIRATORY FAILURE -- multifactorial.  Significant resp.
   decompensation in the field, indicating possible pneumonia, CHF, COPD
   exacerbation, or respiratory response to acidemia (lactic acidosis,
   renal failure, sepsis).  Plan continue mechanical ventilation, monitor
   ABG --> aim for SaO2 > 90%, pO2 > 60 mmHg, pH> 7.30.  Monitor for
   pneumonia (LLL).
   HYPOTENSION -- multifactorial; principal concerns include severe
   sepsis, hypovolemia, and component of cardiogenic shock (baseline
   cardiomyopathy).  ELevated cardiac enzymes suggest component of
   ischedmia, but may be secondary.  Plan continue volume resussutation,
   vasopressors (including trial of vasopressin) including Dobutamine.
   Transfuse with colloid, transfuse with PRBC.  Maintain MAP >60 mmHg.
   NEUROLOGICAL STATUS -- Moves to tactile stimulus, flaccid right UE
   motor exam.  Concern for possible intracranial hemorrhage, or hypoxemic
   encephalopathy (or subsequent hypotensive insult).  Serum and urine
   toxin negative.  No concerns for meningitis or encephalitis at this
   time.  Head CT today to assess for intracranial hemorrhage.  TTP may
   explain mental status change.
   HYPERNATREMIA -- provide free H2O.  Monitor Na q 6-8 hr.
   ELEVATED CARDIAC ENZYMES -- continue to increase, concerning for
   significant cardiac ischemia.  Suspect secondary insult rather than
   primary cardiac event.
   SEPSIS -- hypothermia, low neutrophil count.  Continue empirical
   antimicrobials.  Consider imaging abdomen & pelvis, although RUQ U/S.
   NEUTROPENIA -- absolute neutropenia --> empirical antimicrobials
   (Vanco, Cefopime, Flagyl).
   THROMBOCYTOPENIA
 worsening.  In setting of schistocytes, concern for
   TTP/HUS.  Hematology consult opinion that DIC more likley than TTP.
   ANEMIA
 aplastic anemia as background.  Worsening, suggesting of
   hemolytic anemia. Transfuse.  Hematololgy consult.
   HYPOTHERMIA -- concern for severe sepsis, possible component of
   cardiogenic shock.  Resolved.
   RENAL FAILURE -- acute on chronic.  Contributing to acidosis.
   Attributed to hypovolemia and shock --> now with evidence for uremia.
   Plan continue volume resussitation.
   CPK elevation -- Concern for rhabdomyalysis.  continue HCO3 infusion.
   Monitor urine output.
   ELEVATED LFT's -- probable significant component of shock liver, but
   may have predated hypotension.
   NUTRITIONAL SUPPORT -- initiate TF via NGT.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-1-28**] 01:41 AM
   Arterial Line - [**2147-1-28**] 10:11 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2147-01-30 05:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2147-1-29**] 12:00 PM
   - pt continues to be hypotensive requiring levophed (currently at
   0.2mcg/kg/min); continues on IVF with bicarb and did get 1L D5W for
   hypernatremia
   - lost a-line and given coagulopathy, did not resite
   - labs continue to worsen with elevated lactate, decreased platlets,
   decreased HCT
   - received 2 units PRBCs, 2 units FFP, 1 unit platelets with some
   improvement in labs in the evening, 1 additional unit PRBCs given
   overnight
   - renal evaluated patient in the AM and stated no CVVH at this time;
   they were called at 10pm due to worsening lactate and continued
   acidosis and did not feel that CVVH would help
   - extensive discussions with family in afternoon and later in the
   evening and code status changed to DNR
   - per heme: ? fasciits [**First Name8 (NamePattern2) 77**] [**Doctor Last Name 3784**] who saw him prior to admission; ?
   use of neupogen per heme if this is overwhelming infection, though will
   not work right away and it helps if the patient's marrow works
   - curbside cards: stat echo today would not likely change management
   and would not see as much as full TTE; will obtain full TTE in AM
   - sedation boluses given for discomfort
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-1-28**] 08:00 AM
   Metronidazole - [**2147-1-30**] 04:25 AM
   Cefipime - [**2147-1-30**] 05:32 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-1-29**] 08:05 AM
   Midazolam (Versed) - [**2147-1-30**] 04:03 AM
   Fentanyl - [**2147-1-30**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-30**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 82 (73 - 92) bpm
   BP: 100/63(72) {70/40(47) - 113/74(83)} mmHg
   RR: 25 (25 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                  7,352 mL
                                                                  1,530 mL
   PO:
           TF:
                                                                     70 mL
                                                                     78 mL
   IVF:
                                                                  6,303 mL
                                                                  1,187 mL
   Blood products:
                                                                    979 mL
                                                                    264 mL
   Total out:
                                                                  1,886 mL
                                                                      2 mL
   Urine:
                                                                    186 mL
                                                                      2 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,466 mL
                                                                  1,528 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 401%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 17 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/34/86/25/-6
   Ve: 12 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Decreased
   Labs / Radiology
   20 K/uL
   10.2 g/dL
   290 mg/dL
   5.1 mg/dL
   25 mEq/L
   4.0 mEq/L
   120 mg/dL
   98 mEq/L
   144 mEq/L
   29.3 %
   1.2 K/uL
        [image002.jpg]
                             [**2147-1-29**]  12:08 AM
                             [**2147-1-29**]  01:39 AM
                             [**2147-1-29**]  04:54 AM
                             [**2147-1-29**]  05:08 AM
                             [**2147-1-29**]  06:05 AM
                             [**2147-1-29**]  07:36 AM
                             [**2147-1-29**]  01:05 PM
                             [**2147-1-29**]  08:00 PM
                             [**2147-1-29**]  08:06 PM
                             [**2147-1-30**]  04:04 AM
   WBC
   0.4
   0.6
   0.9
   1.2
   Hct
   30.1
   28.6
   27.4
   29.3
   Plt
   13
   9
   33
   20
   Cr
   4.9
   5.1
   5.1
   5.1
   TropT
   2.63
   TCO2
   21
   21
   19
   19
   18
   19
   Glucose
   88
   [**Telephone/Fax (3) 3785**]
   Other labs: PT / PTT / INR:24.8/54.1/2.4, CK / CKMB /
   Troponin-T:5674/22/2.63, ALT / AST:1535/1042, Alk Phos / T Bili:97/9.4,
   Amylase / Lipase:/487, Differential-Neuts:28.0 %, Band:4.0 %,
   Lymph:64.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:8131 ng/mL, Fibrinogen:121
   mg/dL, Lactic Acid:7.9 mmol/L, Albumin:3.6 g/dL, LDH:3370 IU/L,
   Ca++:6.6 mg/dL, Mg++:2.3 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   69M with DM2, CAD, CHF, aplastic anemia, CKD, now with s/p respiratory
   and cardiac arrests with hyperkalemia, acute on chronic renal failure,
   and DIC. The exact nature of these events is unclear, but he has had
   worsening renal function over the past week, leading to electrolyte
   disturbances and possibly an arrhythmogenic cardiac arrest with
   spontaneous return of circulation prior to the arrival of EMS now
   admitted with persistent hypotension requiring multiple pressors.
   # Shock: It is uncelar whether he is in septic shock or cardiogenic
   shock.  Given improvement in status with aggressive fliuds and
   antibiotics, would favor distributive shock with an infectious
   etiology.  His SBPs are holding in the 100
s-110
s.  Still requiring
   levophed for bp support.  BP
s also responded well to IVF though UOP
   remains low and renal function worsening.  Received 2 units yesterday
   morning and an additional unit overnight, hct at 29 this morning,
   stable.  Brachial A-line placed overnight by anesthesia.
   - volume resuscitation with IVF
 use D5 to correct hypernatremia but
   will also need NS for volume repletion, can control Na with free water
   boluses once start tube feeds
   - given unclear etiology of current state and neutropenia continue
   broad spectrum vanc/cefepime
   - pressors as needed for pressure support
 on levophed
   - Goal MAP >60.
   - tranfuse for goal hct>30
   - Monitor pH on ABG for a goal pH of > 7.2
   - If stable, would get CT torso, with po contrast
   # Metabolic Acidosis:  Likely [**2-27**] overwhelming sepsis, renal failure.
   pH normalize but still with low bicarb [**2-27**] ARF
   - needs bicarb
   - serial ABG
s and lytes to monitor
   - abx as above
   - renal following , appreciate recs
   # Respiratory Failure/Acidosis: Unclear precipitant. extensive cardiac
   history suggests cardiac arrest as well as his positive cardiac
   enzymes, but pt had perfusing blood pressure per EMS in the field. PE
   is less likely at a gas shortly after intubation showed good
   oxygenation.   PNA less likely as CXR does not suggest it.  Have been
   able to wean down PEEP and decrease FiO2 ro 40%.  Last gas:
   7.4/30/191/19 showing a mixed  respiratory and metabolic acidosis.
   - vent support, can try to wean O2 as tolerated with a goal oxygenation
   of 90% of higher.
   - has been off sedation
   # Unresponsiveness: Improving. Received minimal sedation in ED, but not
   responding to sternal rub on arrival in ICU. coagulopathy creates high
   risk for bleeding.  Could also be due to seizure activity if a bleed is
   present.  Also could have hypoxic encephalopathy as it was unclear how
   well he was oxygenating when he was found.  He had a Utox which was
   negative, but substances should be consider as a cause of mental status
   change.   He is now moving all 4 extremities, withdraws to pain and
   opened his eyes in reponse to his family
s voices.
   - needs a head CT today to rule out bleed
   - has been off sedation as above
   # DIC: Heme consulted
 do not think there is TTP though it remains in
   the differential, given his with ARF, MS change, low plts, anemia, but
   would not explain low fibrinogen elevated PT, PTT, low platelets,
   fibrinogen low at 94 on arrival and was down to 68 down to <35, now
   improved above 100; FDP, D-dimer were elevated at 8754 and FDP of >
   1280 which all fit with DIC
 likely from an infectious cause.   No
   plasmapheresis for now per heme.  INR this [**Last Name (un) 3698**] improved to 2.8
   - will need correction of coagulopathy (plts, FFP) prior to re-siting
   central line
   - heme following, appreciate recs
   # Hemolytic anemia superimposed on Aplastic anemia:
   - supportive transfusion to goal Hct 30, given concern for myocardial
   ischemia
   - heme following, appreciate recs.
   # CAD: Pt with extensive CAD history, including prior
   revascularizations and recent NSTEMI, with unwitnessed, out of hospital
   arrest, although he had a perfusing BP in the field. EKG had signs of
   hyperkalemia on arrival but pseudonormalization in ant leads after
   resolution of hyperK suggests ischemic insult. Cardiac troponin
   positive, rules in for NSTEMI, which may have been primary event or
   secondary to brief circulatory collapse followed by return of
   circulation, as would be the case with VT/VF that spontaneously
   terminated.  Enzymes trending up likely multifactorial from end organ
   ischemia and renal failure.
   - trend enzymes, daily EKG
   - anticoagulants, antiplatelets contraindicated [**2-27**] DIC
   - statin contraindicated [**2-27**] shock liver
   # CHF: Known EF 15-20%
   - echo ordered  to eval for new WMA
   - No ACE-I or B-blocker given hypotension.
   # Acute on chronic renal failure: Cr had been trending up at last
   clinic vists, now doubled in the 4
s on admission now stable at 4.9
   this morning  Differential includes ATN from hypotension, TTP, other
   intrarenal causes.  Less likely prerenal or postrenal given his other
   issues.  Osm gap was elevated at 13.  FENA of 0.4 suggests prerenal,
   but given the extent of his hypotension and rise in his Cr, more likely
   to be ATN.
   - pending cyclosporin level (pt may have been taking CSA even though
   directed not to)
   - continue volume resuscitation as above with D5 and NS
   - serial electrolytes
   - renal following, appreciate recs, may get CVVH today after line
   placement though Cr is plateaued at 4.9 this morning
   - renally dose all meds, avoid nephrotoxins
   - ionized Ca was low, replete check with pm lytes
   # shock liver: The patient
s LFTs continue to be elevated, likely due
   to hypoperfusion in setting of prolonged hypotension.  The elevated T
   bili is likely in part from hemolytic anemia, but massive elevations in
   all liver enzymes c/w shock liver.
   - continue to trend.
   - Elevated CKs and LFTs could also be concerning for rhabdo in the
   setting of ARF.  IVF with bicarb for alkalization of her urine given a
   possibility of rhabdo.
   # Hypernatremia: 150 this morning, likely [**2-27**] to aggressive fluids with
   sodium bicarb
   - will give D5 for free water replacement though will still need bicarb
   given likely rhabo
   - pm lytes, trend
   # DM2:  Sugar 47 overnight, got 1 amp D50 with good result, has been
   off insulin drip since yesterday
   - monitor sugars, may need insulin gtt
   # Access: femoral line; will need to change to SC/IJ when able. A line
   placed.  Will need CVVH line
 renal to place.
   # FEN: Nutrition c/s for tubefeeds, replete lytes prn, fluids as above
   ICU Care
   Nutrition: c/s as above
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2147-1-28**] 01:41 AM
   Arterial Line - [**2147-1-28**] 10:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2147-01-30 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69M with DM2, CAD, CHF, aplastic anemia, CKD, now with s/p respiratory
   and cardiac arrests with hyperkalemia, acute on chronic renal failure,
   and DIC. The exact nature of these events is unclear, but he has had
   worsening renal function over the past week, leading to electrolyte
   disturbances and possibly an arrhythmogenic cardiac arrest with
   spontaneous return of circulation prior to the arrival of EMS.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2147-1-29**] 12:00 PM
   No events overnight.
   History obtained from Medical records, Staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2147-1-30**] 04:25 AM
   Cefipime - [**2147-1-30**] 05:32 AM
   Vancomycin - [**2147-1-30**] 08:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-1-30**] 08:00 AM
   Midazolam (Versed) - [**2147-1-30**] 09:30 AM
   Fentanyl - [**2147-1-30**] 09:30 AM
   Other medications:
   Peridex, Pantoprazole, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-30**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.8
   HR: 78 (78 - 92) bpm
   BP: 94/55(64) {70/40(47) - 128/89(98)} mmHg
   RR: 30 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                  7,352 mL
                                                                  2,918 mL
   PO:
           TF:
                                                                     70 mL
                                                                    199 mL
   IVF:
                                                                  6,303 mL
                                                                  2,305 mL
   Blood products:
                                                                    979 mL
                                                                    264 mL
   Total out:
                                                                  1,886 mL
                                                                    189 mL
   Urine:
                                                                    186 mL
                                                                    189 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,466 mL
                                                                  2,729 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 14
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/34/86/25/-6
   Ve: 15.6 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: intubated, unresponsive
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   20 K/uL
   290 mg/dL
   5.1 mg/dL
   25 mEq/L
   4.0 mEq/L
   120 mg/dL
   98 mEq/L
   144 mEq/L
   29.3 %
   1.2 K/uL
        [image002.jpg]
                             [**2147-1-29**]  12:08 AM
                             [**2147-1-29**]  01:39 AM
                             [**2147-1-29**]  04:54 AM
                             [**2147-1-29**]  05:08 AM
                             [**2147-1-29**]  06:05 AM
                             [**2147-1-29**]  07:36 AM
                             [**2147-1-29**]  01:05 PM
                             [**2147-1-29**]  08:00 PM
                             [**2147-1-29**]  08:06 PM
                             [**2147-1-30**]  04:04 AM
   WBC
   0.4
   0.6
   0.9
   1.2
   Hct
   30.1
   28.6
   27.4
   29.3
   Plt
   13
   9
   33
   20
   Cr
   4.9
   5.1
   5.1
   5.1
   TropT
   2.63
   TCO2
   21
   21
   19
   19
   18
   19
   Glucose
   88
   [**Telephone/Fax (3) 3785**]
   Other labs: PT / PTT / INR:24.8/54.1/2.4, CK / CKMB /
   Troponin-T:5674/22/2.63, ALT / AST:1535/1042, Alk Phos / T Bili:97/9.4,
   Amylase / Lipase:/487, Differential-Neuts:28.0 %, Band:4.0 %,
   Lymph:64.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:8131 ng/mL, Fibrinogen:121
   mg/dL, Lactic Acid:7.9 mmol/L, Albumin:3.6 g/dL, LDH:3370 IU/L,
   Ca++:6.6 mg/dL, Mg++:2.3 mg/dL, PO4:7.0 mg/dL
   Imaging: CXR- persistent interstitial edema, L effusion
   Microbiology: C. diff- neg
   Sputum- poor sample
   Blood- neg to date
   Assessment and Plan
   PRESUMED SEPTIC SHOCK / MULTI-ORGAN FAILURE -- Initially fluid
   responsive, now pressor-dependent on levophed, w/ respiratory, cardiac,
   renal, hepatic, marrow, neurologic dysfunction
   -grim prognosis, would consider changing goals of care to CMO; need to
   discuss w/ family
   -for now, cont pressor support
   -if aggressive, would follow sCvO2 and lactate to guide IVF, volume
   expansion
   POSS DIC --
   - will need correction of coagulopathy (plts, FFP) prior to re-siting
   central line
   - heme following, appreciate recs
   RESPIRATORY FAILUE --
   # Respiratory Failure/Acidosis: Unclear precipitant. extensive cardiac
   history suggests cardiac arrest as well as his positive cardiac
   enzymes, but pt had perfusing blood pressure per EMS in the field. PE
   is less likely at a gas shortly after intubation showed good
   oxygenation.   PNA less likely as CXR does not suggest it.  Have been
   able to wean down PEEP and decrease FiO2 ro 40%.  Last gas:
   7.4/30/191/19 showing a mixed  respiratory and metabolic acidosis.
   - vent support, can try to wean O2 as tolerated with a goal oxygenation
   of 90% of higher.
   - has been off sedation
   APLASTIC ANEMIA --
   - supportive transfusion to goal Hct 30, given concern for myocardial
   ischemia
   - heme following, appreciate recs.
   ACUTE ON CHRONIC RENAL FAILURE -- Cr had been trending up at last
   clinic vists, now doubled in the 4
s on admission now stable at 4.9
   this morning  Differential includes ATN from hypotension, TTP, other
   intrarenal causes.  Less likely prerenal or postrenal given his other
   issues.  Osm gap was elevated at 13.  FENA of 0.4 suggests prerenal,
   but given the extent of his hypotension and rise in his Cr, more likely
   to be ATN.
   - pending cyclosporin level (pt may have been taking CSA even though
   directed not to)
   - continue volume resuscitation as above with D5 and NS
   - serial electrolytes
   - renal following, appreciate recs, may get CVVH today after line
   placement though Cr is plateaued at 4.9 this morning
   - renally dose all meds, avoid nephrotoxins
   - ionized Ca was low, replete check with pm lytes
   OBTUNDATION -- Improving. Received minimal sedation in ED, but not
   responding to sternal rub on arrival in ICU. coagulopathy creates high
   risk for bleeding.  Could also be due to seizure activity if a bleed is
   present.  Also could have hypoxic encephalopathy as it was unclear how
   well he was oxygenating when he was found.  He had a Utox which was
   negative, but substances should be consider as a cause of mental status
   change.   He is now moving all 4 extremities, withdraws to pain and
   opened his eyes in reponse to his family
s voices.
   - needs a head CT today to rule out bleed
   - has been off sedation as above
   CAD/ ICM --
   # CAD: Pt with extensive CAD history, including prior
   revascularizations and recent NSTEMI, with unwitnessed, out of hospital
   arrest, although he had a perfusing BP in the field. EKG had signs of
   hyperkalemia on arrival but pseudonormalization in ant leads after
   resolution of hyperK suggests ischemic insult. Cardiac troponin
   positive, rules in for NSTEMI, which may have been primary event or
   secondary to brief circulatory collapse followed by return of
   circulation, as would be the case with VT/VF that spontaneously
   terminated.  Enzymes trending up likely multifactorial from end organ
   ischemia and renal failure.
   - trend enzymes, daily EKG
   - anticoagulants, antiplatelets contraindicated [**2-27**] DIC
   - statin contraindicated [**2-27**] shock liver
   # CHF: Known EF 15-20%
   - echo ordered  to eval for new WMA
   - No ACE-I or B-blocker given hypotension.
   # shock liver: The patient
s LFTs continue to be elevated, likely due
   to hypoperfusion in setting of prolonged hypotension.  The elevated T
   bili is likely in part from hemolytic anemia, but massive elevations in
   all liver enzymes c/w shock liver.
   - continue to trend.
   - Elevated CKs and LFTs could also be concerning for rhabdo in the
   setting of ARF.  IVF with bicarb for alkalization of her urine given a
   possibility of rhabdo.
   # Hypernatremia: 150 this morning, likely [**2-27**] to aggressive fluids with
   sodium bicarb
   - will give D5 for free water replacement though will still need bicarb
   given likely rhabo
   - pm lytes, trend
   # DM2:  Sugar 47 overnight, got 1 amp D50 with good result, has been
   off insulin drip since yesterday
   - monitor sugars, may need insulin gtt
   # Access: femoral line; will need to change to SC/IJ when able. A line
   placed.  Will need CVVH line
 renal to place.
   # FEN: Nutrition c/s for tubefeeds, replete lytes prn, fluids as above
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2147-1-30**] 10:02 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2147-1-28**] 01:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Met with family. They are requesting further
   diagnostic studies to clarify CNS issues before making further
   decisions about level of care.
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 60 min

2147-01-31 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - The bicarb gtt was stopped.
   - Ca acetate was started per renal.
   - Vanc level ordered for t/m, need to give 1 mg for a level < 15.
   - Heme/onc recs were to scan his head/torso if possible and he was sent
   for these as his BPs stabilized.  Head CT showed no bleed, multifocal
   areas of hypodensity which may represent chronic vs acute infarct.
   Also rec additional tests which were sent: lupus anticoagulant,
   anticardiolipin antibody, EBV PCR, CMV VL.
   - TTE showed: Overall left ventricular systolic function is severely
   depressed (LVEF= 20 %) with akinesis of the inferior, infero-lateral,
   distal LV/apical segments. Tissue Doppler imaging suggests an increased
   left ventricular filling pressure (PCWP>18mmHg). The right ventricular
   cavity is mildly dilated with moderate global free wall hypokinesis.
   - Started on an insulin gtt for elevated BS in the 200's to 300's.
   - Lactate decrease from 7.9 to 6.7 over the day.
   - Patient was off levophed for an hour overnight and then went into
   a.fib with RVR with HRs in the 140s.  Was given IV metoprolol 5 mg x 3
   and his pressures dropped so levophed had to be restarted.  Still was
   in the 130s.  Was given IV dilt 10 mg x 2 with some response and 30 mg
   of po dilt, however he continued to range from the 120's to the high
   130's.  He was then loaded with dixogen 0.25 mg q8h x 3.  He was then
   switched from levophed to neo and given a 500 cc NS bolus.  He remained
   tachycardic in the 120's to the 140's so he was started on an
   amiodarone gtt with a bolus of 150 mg IV amiodarone.  He remained
   tachycardic and his family was updated.  He received another 500 cc NS
   bolus.
   - His SBP remained low and he was on max levels of neo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2147-1-30**] 05:32 AM
   Vancomycin - [**2147-1-30**] 08:00 AM
   Metronidazole - [**2147-1-30**] 08:18 PM
   Infusions:
   Insulin - Regular - 3 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-1-30**] 08:00 AM
   Midazolam (Versed) - [**2147-1-30**] 09:45 PM
   Metoprolol - [**2147-1-31**] 01:48 AM
   Diltiazem - [**2147-1-31**] 01:57 AM
   Fentanyl - [**2147-1-31**] 05:06 AM
   Morphine Sulfate - [**2147-1-31**] 05:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-31**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 133 (75 - 154) bpm
   BP: 84/45(48) {71/45(21) - 124/83(99)} mmHg
   RR: 33 (13 - 33) insp/min
   SpO2: 86%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 89.1 kg (admission): 69 kg
   Height: 73 Inch
             Total In:
                                                                  4,168 mL
                                                                  1,819 mL
   PO:
             TF:
                                                                    430 mL
                                                                     62 mL
   IVF:
                                                                  3,024 mL
                                                                  1,606 mL
   Blood products:
                                                                    264 mL
   Total out:
                                                                    354 mL
                                                                    115 mL
   Urine:
                                                                    354 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,814 mL
                                                                  1,704 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 762 (762 - 762) mL
   RR (Set): 28
   RR (Spontaneous): 25
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 23 cmH2O
   SpO2: 86%
   ABG: ///22/
   Ve: 17.8 L/min
   Physical Examination
   Gen: elderly male lying in bed intubated with agonal breathing
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, systolic murmur present
   Respiratory / Chest: Coarse breath sounds b/l
   Abdominal: Soft, ND, Bowel sounds present
   Extremities: trace edema b/l
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No response today to painful stimuli, pupils minimally
   reactive
   Labs / Radiology
   18 K/uL
   11.1 g/dL
   164 mg/dL
   3.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   126 mg/dL
   100 mEq/L
   145 mEq/L
   30.8 %
   2.9 K/uL
        [image002.jpg]
                             [**2147-1-29**]  04:54 AM
                             [**2147-1-29**]  05:08 AM
                             [**2147-1-29**]  06:05 AM
                             [**2147-1-29**]  07:36 AM
                             [**2147-1-29**]  01:05 PM
                             [**2147-1-29**]  08:00 PM
                             [**2147-1-29**]  08:06 PM
                             [**2147-1-30**]  04:04 AM
                             [**2147-1-30**]  02:59 PM
                             [**2147-1-31**]  04:21 AM
   WBC
   0.4
   0.6
   0.9
   1.2
   1.9
   2.9
   Hct
   30.1
   28.6
   27.4
   29.3
   29.3
   30.8
   Plt
   13
   9
   33
   20
   24
   18
   Cr
   4.9
   5.1
   5.1
   5.1
   4.9
   3.8
   TropT
   2.63
   TCO2
   19
   19
   18
   19
   Glucose
   88
   [**Telephone/Fax (3) 3807**]48
   164
   Other labs: PT / PTT / INR:24.9/52.8/2.4, CK / CKMB /
   Troponin-T:5674/22/2.63, ALT / AST:1298/653, Alk Phos / T Bili:99/12.0,
   Amylase / Lipase:/487, Differential-Neuts:66.0 %, Band:13.0 %,
   Lymph:8.0 %, Mono:11.0 %, Eos:0.0 %, D-dimer:8131 ng/mL, Fibrinogen:300
   mg/dL, Lactic Acid:8.9 mmol/L, Albumin:3.6 g/dL, LDH:3370 IU/L,
   Ca++:6.0 mg/dL, Mg++:2.5 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   69M with DM2, CAD, CHF, aplastic anemia, CKD, now with s/p respiratory
   and cardiac arrests with hyperkalemia, acute on chronic renal failure,
   and DIC. The exact nature of these events is unclear, but he has had
   worsening renal function over the past week, leading to electrolyte
   disturbances and possibly an arrhythmogenic cardiac arrest with
   spontaneous return of circulation prior to the arrival of EMS now
   admitted with persistent hypotension requiring multiple pressors.
   Course complicated by DIC, anemia, hemolysis and multiogran system
   failure.  Now s/p afib with RVR and persistent hypotension overnight.
   # Shock/Episode of A.fib with RVR overnight: Patient was doing better
   and had been weaned off pressors for an hour when he had an episode of
   a.fib with RVR.  He was given 5 mg IV metoprolol x 3 and his pressures
   dropped and levophed was added back on for pressure support.  He was
   additionally given fluid boluses, diltiazem 10 mg IV x2, digoxin
   loaded, and started on an amiodarone gtt, however his HR remained in
   the 120
s to 130
s and his pressure continued to decline until they
   were unreadable.  The levophed was stopped during this time given his
   tachycardia and he was started on neo which was uptitrated to maximal
   doses without response.  The patient
s family was called multiple times
   during the night and updated on his status and are here this morning
   with him.  They understand that his prognosis is very poor as his
   pressure is so low and unresponsive to pressors.  Also of note his head
   CT which was obtained last night showed multiple episodes of
   hypodensities They are currently awaiting his outpatient oncologist,
   Dr. [**Last Name (STitle) 3784**]
s arrival before making further decisions.
   - Will continue to support his as we have been doing as below while the
   family takes the time they need to make a decision and speak with Dr.
   [**Last Name (STitle) 3784**].
   # Shock: Pt was adequately fluid resuscitated but still requiring
   levophed for bp support.  Likely combination of cardiogenic and septic
   shock; although no clear source currently.  Receiving multiple
   transfusions for pancytopenia; likely from underlying MDS but unclear
   cause for acute hemolysis.  MOSF currently worsening with coagulopathy
   and fulminant hepatic failure; also cardiac ischemia with troponin of
   2.6.  Continued hypotension as above.
   - continue IV antibiotics with vanc and cefepime; also neutropenic
   - pressors as needed for pressure support
 on neo
   - Goal MAP >60.
   - tranfuse for goal hct>30
   - Monitor pH on ABG for a goal pH of > 7.2
   # Metabolic Acidosis:  Likely [**2-27**] overwhelming sepsis, renal failure.
   pH low but bicarb normalizing; Had been on IV barcarb for > 24 hours
   now.  Renal aware and no indication for CVVH at this point.
   - serial ABG
s and lytes to monitor
   - abx as above
   - renal following , appreciate recs
   - stop bicarb infusion as bicarb now normalizing.
   # Respiratory Failure/Acidosis: Unclear precipitant. extensive cardiac
   history suggests cardiac arrest as well as his positive cardiac
   enzymes, but pt had perfusing blood pressure per EMS in the field. PE
   is less likely at a gas shortly after intubation showed good
   oxygenation.   PNA less likely as CXR does not suggest it.  Have been
   able to wean down PEEP and decrease FiO2 ro 40%.  Last gas:
   7.4/30/191/19 showing a mixed  respiratory and metabolic acidosis.
   - vent support, can try to wean O2 as tolerated with a goal oxygenation
   of 90% of higher.
   - has been off sedation
   # Unresponsiveness:  Worse today as patient is less responsive and not
   waking to noxious stimuli.  Not able to obtain Head CT but high concern
   for ICH due to thrombocytopenia.  Also poor perfusion due to PEA or
   hypotension.
   - has been off sedation as above
   - continue to monitor and discuss with family his poor prognosis
   # DIC: Improved somewhat with FFP and platelets.  Heme does not think
   this is TTP.  Unclear etiology of DIC but patient with underlying
   aplastic anemia and now sepsis with MOSF
   - heme following, appreciate recs
   - continue to transfusion platelets, FFP as needed
   # Hemolytic anemia superimposed on Aplastic anemia. Hct 30.8 this am
   - supportive transfusion to goal Hct 30, given concern for myocardial
   ischemia
   - heme following, appreciate recs.
   # CAD: Pt with extensive CAD history, including prior
   revascularizations and recent NSTEMI, with unwitnessed, out of hospital
   arrest, although he had a perfusing BP in the field. EKG had signs of
   hyperkalemia on arrival but pseudonormalization in ant leads after
   resolution of hyperK suggests ischemic insult. Cardiac troponin
   positive, rules in for NSTEMI, which may have been primary event or
   secondary to brief circulatory collapse followed by return of
   circulation, as would be the case with VT/VF that spontaneously
   terminated.  Enzymes trending up likely multifactorial from end organ
   ischemia and renal failure.
   - trend enzymes, daily EKG
   - anticoagulants, antiplatelets contraindicated [**2-27**] DIC
   - statin contraindicated [**2-27**] shock liver
   # CHF: Known EF 15-20%
   - echo ordered  to eval for new WMA
   - No ACE-I or B-blocker given hypotension.
   # Acute on chronic renal failure: Cr had been trending up at last
   clinic vists, now doubled in the 4
s on admission now stable at 4.9
   this morning  Differential includes ATN from hypotension, TTP, other
   intrarenal causes.  Less likely prerenal or postrenal given his other
   issues.  Osm gap was elevated at 13.  FENA of 0.4 suggests prerenal,
   but given the extent of his hypotension and rise in his Cr, more likely
   to be ATN.
   - continue volume resuscitation as above with D5 and NS
   - serial electrolytes
   - renal following, appreciate recs,
   - renally dose all meds, avoid nephrotoxins
   .
   # shock liver: The patient
s LFTs continue to be elevated, likely due
   to hypoperfusion in setting of prolonged hypotension.  The elevated T
   bili is likely in part from hemolytic anemia, but massive elevations in
   all liver enzymes c/w shock liver.
   - continue to trend and provide supportive care
   .
   # Access: femoral line; not able to resite due to coagulopathy and
   thrombocytopenia.  A-line was lost.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2147-1-31**] 12:59 AM 10 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   Multi Lumen - [**2147-1-28**] 01:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care required.

2147-01-31 09:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Head, Chest CT yest. Afib c RVR overnight. Dig loaded o/n and started
   on amiodarone gtt. Continued to remain hypotensive overnight despite
   almost 6L IVF resuscitation. SBP now in the 30s. Family made aware and
   discussion about goals of care re-addressed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2147-1-30**] 05:32 AM
   Vancomycin - [**2147-1-30**] 08:00 AM
   Metronidazole - [**2147-1-30**] 08:18 PM
   Infusions:
   Insulin - Regular - 3 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Midazolam (Versed) - [**2147-1-30**] 09:45 PM
   Metoprolol - [**2147-1-31**] 01:48 AM
   Diltiazem - [**2147-1-31**] 01:57 AM
   Fentanyl - [**2147-1-31**] 05:06 AM
   Morphine Sulfate - [**2147-1-31**] 05:43 AM
   Other medications:
   Peridex
   Protonix 40 q24
   Ca Acetate tid
   Dig 0.25 q8 x 2 doses load
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-31**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 75 (71 - 154) bpm
   BP: 39/31(33) {39/31(21) - 111/83(99)} mmHg
   RR: 30 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.1 kg (admission): 69 kg
   Height: 73 Inch
             Total In:
                                                                  4,168 mL
                                                                  2,197 mL
   PO:
             TF:
                                                                    430 mL
                                                                     85 mL
   IVF:
                                                                  3,024 mL
                                                                  1,963 mL
   Blood products:
                                                                    264 mL
   Total out:
                                                                    354 mL
                                                                    115 mL
   Urine:
                                                                    354 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,814 mL
                                                                  2,082 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 762 (762 - 762) mL
   RR (Set): 28
   RR (Spontaneous): 25
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 18.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   18 K/uL
   164 mg/dL
   3.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   126 mg/dL
   100 mEq/L
   145 mEq/L
   30.8 %
   2.9 K/uL
        [image002.jpg]
                             [**2147-1-29**]  04:54 AM
                             [**2147-1-29**]  05:08 AM
                             [**2147-1-29**]  06:05 AM
                             [**2147-1-29**]  07:36 AM
                             [**2147-1-29**]  01:05 PM
                             [**2147-1-29**]  08:00 PM
                             [**2147-1-29**]  08:06 PM
                             [**2147-1-30**]  04:04 AM
                             [**2147-1-30**]  02:59 PM
                             [**2147-1-31**]  04:21 AM
   WBC
   0.4
   0.6
   0.9
   1.2
   1.9
   2.9
   Hct
   30.1
   28.6
   27.4
   29.3
   29.3
   30.8
   Plt
   13
   9
   33
   20
   24
   18
   Cr
   4.9
   5.1
   5.1
   5.1
   4.9
   3.8
   TropT
   2.63
   TCO2
   19
   19
   18
   19
   Glucose
   88
   [**Telephone/Fax (3) 3807**]48
   164
   Other labs: PT / PTT / INR:24.9/52.8/2.4, CK / CKMB /
   Troponin-T:5674/22/2.63, ALT / AST:1298/653, Alk Phos / T Bili:99/12.0,
   Amylase / Lipase:/487, Differential-Neuts:66.0 %, Band:13.0 %,
   Lymph:8.0 %, Mono:11.0 %, Eos:0.0 %, D-dimer:8131 ng/mL, Fibrinogen:300
   mg/dL, Lactic Acid:8.9 mmol/L, Albumin:3.6 g/dL, LDH:3370 IU/L,
   Ca++:6.0 mg/dL, Mg++:2.5 mg/dL, PO4:5.8 mg/dL
   Imaging: Head CT- extensive nonspec hypodensities, acute vs subacute
   ischemic changes
   Chest CT- bibasilar infiltrates
   Assessment and Plan
   PRESUMED SEPTIC SHOCK / MULTI-ORGAN FAILURE -- Initially fluid
   responsive, now pressor-dependent on levophed, w/ respiratory, cardiac,
   renal, hepatic, marrow, neurologic dysfunction
   -grim prognosis, would consider changing goals of care to CMO; need to
   discuss w/ family
   -for now, cont pressor support
   -if aggressive, would follow sCvO2 and lactate to guide IVF, volume
   expansion
   DISPO -- following family meeting this morning and imaging from yest,
   prob transition to CMO today
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2147-1-31**] 12:59 AM 10 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2147-1-28**] 01:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 60 min including family meeting to discuss prognosis
   and code status
   Patient is critically ill